US05629321
Synthesis of methyl 7-[(4-cyanobenzyl)oxy]-1,2,3,4-tetrahydronaphthalene-2-acetate (Compound No. 156)
In 50 ml of 2-butanone, 1.2 g of methyl 7-hydroxy-1,2,3,4-tetrahydronaphthalene-2-acetate and 1.60 g of 4-cyanobenzyl bromide were dissolved, 1.51 g of potassium carbonate was added, and the mixture was refluxed by heating for 12 hours. Most of the solvent was distilled off under reduced pressure. The concentrated residue was mixed with water and extracted with ethyl acetate. The organic layer was dried with anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The concentrated residue was purified by silica gel column chromatography using a mixture, ethyl acetate:n-hexane=1:3, as a developer to yield 1.7 g of the entitled compound.

reactant | methyl 7-hydroxy-1,2,3,4-tetrahydronaphthalene-2-acetate | 1.2 g | OC1=CC=C2CCC(CC2=C1)CC(=O)OC | C13H16O3
reactant | 4-cyanobenzyl bromide | 1.60 g | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | potassium carbonate | 1.51 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 50 ml | CC(CC)=O | C4H8O
product | methyl 7-[(4-cyanobenzyl)oxy]-1,2,3,4-tetrahydronaphthalene-2-acetate | 1.7 g | C(#N)C1=CC=C(COC2=CC=C3CCC(CC3=C2)CC(=O)OC)C=C1 | C21H21NO3
